US04447259
To a mixture of 5-methylisoxazolidine hydrochloride (13.6 g) and chloroform (200 ml), under stirring and ice-cooling, was added (±)-2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionyl chloride (34.6 g) and then added dropwise triethylamine (22.2 g). After the completion of addition, the reaction mixture was stirred for further 30 minutes at room temperature, to which water was added to form two layers. The organic layer so separated was washed with 1 N hydrochloric acid and then with 1 N aqueous sodium hydroxide solution and dried over anhydrous sodium sulfate. Removal of the solvent by a distillation in vacuo gave N-[(±)-2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionyl]-5-methylisoxazolidine (38.0 g) as a white crystalline solid which showed the melting point of 94°-97° C. after recrystallization from a mixture of n-hexane/acetone.

reactant | 5-methylisoxazolidine hydrochloride | 13.6 g | Cl.CC1CCNO1
reactant | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
reactant | (±)-2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionyl chloride | 34.6 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1)(F)F | C15H11ClF3NO3
reactant | triethylamine | 22.2 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | N-[(±)-2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionyl]-5-methylisoxazolidine | 38.0 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)N2OC(CC2)C)C)C=C1)(F)F | C19H19F3N2O4
